US07368474B2
1. d) 4-Fluoromethyl-N-[2-(tritylsulphanyl)ethyl]benzamide
A solution of Kryptofix (Fluka, 15 mg, 40 μmol) in dry acetonitrile (200 μl) was added to solid potassium fluoride (2.3 mg, 80 μmol). The mixture was shaken for 5 min. The Kryptofix/KF-solution was added to a solution of methanesulphonic acid 4-[2-(tritylsulphanyl)ethylcarbamoyl]benzyl ester (21 mg, 40 μmol) in acetonitrile (400 μl). The mixture was heated at 65° C. for 10 min. An aliquot was analysed by HPLC (column Phenomenex Luna 3 μm C18(2) 50×4.60 mm; solvents: A=water/0.1% TFA and B=acetonitrile/0.1% TWA; gradient 40-80% B over 10 min; flow 2.0 ml/min, UV detection at 214 and 254 nm), showing complete conversion of starting material (tR 5.6 min) to a new product (tR 6.3 min). Purification by reverse phase preparative HPLC (column: Phenomenex Luna C18(2) 5 μm 250×21.2 mm, solvents: A=water/0.1% TFA and B=acetonitrile/0.1% TFA; gradient 40-80% B over 60 min; flow 10.0 ml/min, UV detection at 214 nm) gave 4.5 mg of white solid. The structure was confirmed by NMR spectroscopy.

reactant | potassium fluoride | 80 μmol, 2.3 mg | [F-].[K+]
reactant | methanesulphonic acid 4-[2-(tritylsulphanyl)ethylcarbamoyl]benzyl ester | 40 μmol, 21 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SCCNC(=O)C1=CC=C(COS(=O)(=O)C)C=C1 | C30H29NO4S2
reactant | water | O | H2O
solvent | acetonitrile | 200 μl | C(C)#N | C2H3N
solvent | acetonitrile | 400 μl | C(C)#N | C2H3N
product | 4-Fluoromethyl-N-[2-(tritylsulphanyl)ethyl]benzamide | 4.5 mg | FCC1=CC=C(C(=O)NCCSC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C29H26FNOS
